// Design library name: Narasimhan
// Design cell name: Mixer_SB_CM_25D_TB_tsmc
// Design view name: schematic
simulator lang=spectre
global 0
// PARAMETERS
parameters cap_w=10
parameters res_w=75
parameters gm=20m
parameters RN=250
parameters G=100
parameters sw_mul=75
parameters flo=500M
parameters flo_start=100M
parameters flo_stop=1G
parameters Bandwidth=10M
parameters temperature=27
include "/cad/library/TSMC/65/lp/tsmcN65/../models/spectre/toplevel.scs" section=tt_lib

// Library name: Narasimhan
// Cell name: transimpedance_amplifier_tsmc
// View name: schematic
subckt transimpedance_amplifier_tsmc In Out
parameters _par0=100 _par1=100 _par2=20
    E0 (Out 0 0 In) vcvs gain=_par0 type=vcvs
    R4 (Out net09 0) rppolyl_rf l=_par1*1u w=2u m=1 mismatchflag=0
    R3 (net09 net08 0) rppolyl_rf l=_par1*1u w=2u m=1 mismatchflag=0
    R2 (net10 net08 0) rppolyl_rf l=_par1*1u w=2u m=1 mismatchflag=0
    R0 (In net11 0) rppolyl_rf l=_par1*1u w=2u m=1 mismatchflag=0
    R1 (net11 net10 0) rppolyl_rf l=_par1*1u w=2u m=1 mismatchflag=0
    C2 (In Out) mimcap_sin lt=_par2*2u wt=_par2*2u mimflag=3 mf=1 \
        mismatchflag=0
    C1 (In Out) mimcap_sin lt=_par2*2u wt=_par2*2u mimflag=3 mf=1 \
        mismatchflag=0
    C0 (In Out) mimcap_sin lt=_par2*2u wt=_par2*2u mimflag=3 mf=1 \
        mismatchflag=0
ends transimpedance_amplifier_tsmc
// End of subcircuit definition.

// Library name: Narasimhan
// Cell name: current_mode_DB_fd_25D
// View name: schematic
subckt current_mode_DB_fd_25D I\+ I\- IN\+ IN\- LO_0 LO_180 LO_270 LO_90 \
        Q\+ Q\-
    M7 (IN\- LO_90 net17 0) nmos_rf lr=60n wr=sw_wn nr=1 sa=450.0n \
        sb=450.0n sd=240.0n \
        sca=((0+(((1e-06*1e-06)/6e-08)*(1/(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))-1/((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)))+(((1e-06*1e-06)/6e-08)*(1/(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))-1/((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)))+(((1e-06*1e-06)/(sw_wn*1.0))*(1/1.37e-06-1/(1.37e-06+(sw_wn*1.0))))+(((1e-06*1e-06)/(sw_wn*1.0))*(1/1.37e-06-1/(1.37e-06+(sw_wn*1.0)))))/1) \
        scb=((0+((1/6e-08)*(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/10.0+1e-06/100.0)*exp(-10.0*(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/10.0+1e-06/100.0)*exp(-10.0*((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/6e-08)*(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/10.0+1e-06/100.0)*exp(-10.0*(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/10.0+1e-06/100.0)*exp(-10.0*((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/(sw_wn*1.0))*((1.37e-06/10.0+1e-06/100.0)*exp(-10.0*1.37e-06/1e-06)-((1.37e-06+(sw_wn*1.0))/10.0+1e-06/100.0)*exp(-10.0*(1.37e-06+(sw_wn*1.0))/1e-06)))+((1/(sw_wn*1.0))*((1.37e-06/10.0+1e-06/100.0)*exp(-10.0*1.37e-06/1e-06)-((1.37e-06+(sw_wn*1.0))/10.0+1e-06/100.0)*exp(-10.0*(1.37e-06+(sw_wn*1.0))/1e-06))))/1) \
        scc=((0+((1/6e-08)*(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/20.0+1e-06/400.0)*exp(-20.0*(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/20.0+1e-06/400.0)*exp(-20.0*((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/6e-08)*(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/20.0+1e-06/400.0)*exp(-20.0*(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/20.0+1e-06/400.0)*exp(-20.0*((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/(sw_wn*1.0))*((1.37e-06/20.0+1e-06/400.0)*exp(-20.0*1.37e-06/1e-06)-((1.37e-06+(sw_wn*1.0))/20.0+1e-06/400.0)*exp(-20.0*(1.37e-06+(sw_wn*1.0))/1e-06)))+((1/(sw_wn*1.0))*((1.37e-06/20.0+1e-06/400.0)*exp(-20.0*1.37e-06/1e-06)-((1.37e-06+(sw_wn*1.0))/20.0+1e-06/400.0)*exp(-20.0*(1.37e-06+(sw_wn*1.0))/1e-06))))/1) \
        m=sw_mul sigma=1
    M6 (IN\+ LO_270 net17 0) nmos_rf lr=60n wr=sw_wn nr=1 sa=450.0n \
        sb=450.0n sd=240.0n \
        sca=((0+(((1e-06*1e-06)/6e-08)*(1/(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))-1/((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)))+(((1e-06*1e-06)/6e-08)*(1/(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))-1/((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)))+(((1e-06*1e-06)/(sw_wn*1.0))*(1/1.37e-06-1/(1.37e-06+(sw_wn*1.0))))+(((1e-06*1e-06)/(sw_wn*1.0))*(1/1.37e-06-1/(1.37e-06+(sw_wn*1.0)))))/1) \
        scb=((0+((1/6e-08)*(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/10.0+1e-06/100.0)*exp(-10.0*(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/10.0+1e-06/100.0)*exp(-10.0*((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/6e-08)*(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/10.0+1e-06/100.0)*exp(-10.0*(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/10.0+1e-06/100.0)*exp(-10.0*((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/(sw_wn*1.0))*((1.37e-06/10.0+1e-06/100.0)*exp(-10.0*1.37e-06/1e-06)-((1.37e-06+(sw_wn*1.0))/10.0+1e-06/100.0)*exp(-10.0*(1.37e-06+(sw_wn*1.0))/1e-06)))+((1/(sw_wn*1.0))*((1.37e-06/10.0+1e-06/100.0)*exp(-10.0*1.37e-06/1e-06)-((1.37e-06+(sw_wn*1.0))/10.0+1e-06/100.0)*exp(-10.0*(1.37e-06+(sw_wn*1.0))/1e-06))))/1) \
        scc=((0+((1/6e-08)*(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/20.0+1e-06/400.0)*exp(-20.0*(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/20.0+1e-06/400.0)*exp(-20.0*((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/6e-08)*(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/20.0+1e-06/400.0)*exp(-20.0*(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/20.0+1e-06/400.0)*exp(-20.0*((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/(sw_wn*1.0))*((1.37e-06/20.0+1e-06/400.0)*exp(-20.0*1.37e-06/1e-06)-((1.37e-06+(sw_wn*1.0))/20.0+1e-06/400.0)*exp(-20.0*(1.37e-06+(sw_wn*1.0))/1e-06)))+((1/(sw_wn*1.0))*((1.37e-06/20.0+1e-06/400.0)*exp(-20.0*1.37e-06/1e-06)-((1.37e-06+(sw_wn*1.0))/20.0+1e-06/400.0)*exp(-20.0*(1.37e-06+(sw_wn*1.0))/1e-06))))/1) \
        m=sw_mul sigma=1
    M5 (IN\- LO_270 net18 0) nmos_rf lr=60n wr=sw_wn nr=1 sa=450.0n \
        sb=450.0n sd=240.0n \
        sca=((0+(((1e-06*1e-06)/6e-08)*(1/(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))-1/((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)))+(((1e-06*1e-06)/6e-08)*(1/(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))-1/((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)))+(((1e-06*1e-06)/(sw_wn*1.0))*(1/1.37e-06-1/(1.37e-06+(sw_wn*1.0))))+(((1e-06*1e-06)/(sw_wn*1.0))*(1/1.37e-06-1/(1.37e-06+(sw_wn*1.0)))))/1) \
        scb=((0+((1/6e-08)*(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/10.0+1e-06/100.0)*exp(-10.0*(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/10.0+1e-06/100.0)*exp(-10.0*((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/6e-08)*(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/10.0+1e-06/100.0)*exp(-10.0*(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/10.0+1e-06/100.0)*exp(-10.0*((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/(sw_wn*1.0))*((1.37e-06/10.0+1e-06/100.0)*exp(-10.0*1.37e-06/1e-06)-((1.37e-06+(sw_wn*1.0))/10.0+1e-06/100.0)*exp(-10.0*(1.37e-06+(sw_wn*1.0))/1e-06)))+((1/(sw_wn*1.0))*((1.37e-06/10.0+1e-06/100.0)*exp(-10.0*1.37e-06/1e-06)-((1.37e-06+(sw_wn*1.0))/10.0+1e-06/100.0)*exp(-10.0*(1.37e-06+(sw_wn*1.0))/1e-06))))/1) \
        scc=((0+((1/6e-08)*(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/20.0+1e-06/400.0)*exp(-20.0*(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/20.0+1e-06/400.0)*exp(-20.0*((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/6e-08)*(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/20.0+1e-06/400.0)*exp(-20.0*(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/20.0+1e-06/400.0)*exp(-20.0*((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/(sw_wn*1.0))*((1.37e-06/20.0+1e-06/400.0)*exp(-20.0*1.37e-06/1e-06)-((1.37e-06+(sw_wn*1.0))/20.0+1e-06/400.0)*exp(-20.0*(1.37e-06+(sw_wn*1.0))/1e-06)))+((1/(sw_wn*1.0))*((1.37e-06/20.0+1e-06/400.0)*exp(-20.0*1.37e-06/1e-06)-((1.37e-06+(sw_wn*1.0))/20.0+1e-06/400.0)*exp(-20.0*(1.37e-06+(sw_wn*1.0))/1e-06))))/1) \
        m=sw_mul sigma=1
    M4 (IN\+ LO_90 net18 0) nmos_rf lr=60n wr=sw_wn nr=1 sa=450.0n \
        sb=450.0n sd=240.0n \
        sca=((0+(((1e-06*1e-06)/6e-08)*(1/(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))-1/((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)))+(((1e-06*1e-06)/6e-08)*(1/(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))-1/((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)))+(((1e-06*1e-06)/(sw_wn*1.0))*(1/1.37e-06-1/(1.37e-06+(sw_wn*1.0))))+(((1e-06*1e-06)/(sw_wn*1.0))*(1/1.37e-06-1/(1.37e-06+(sw_wn*1.0)))))/1) \
        scb=((0+((1/6e-08)*(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/10.0+1e-06/100.0)*exp(-10.0*(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/10.0+1e-06/100.0)*exp(-10.0*((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/6e-08)*(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/10.0+1e-06/100.0)*exp(-10.0*(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/10.0+1e-06/100.0)*exp(-10.0*((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/(sw_wn*1.0))*((1.37e-06/10.0+1e-06/100.0)*exp(-10.0*1.37e-06/1e-06)-((1.37e-06+(sw_wn*1.0))/10.0+1e-06/100.0)*exp(-10.0*(1.37e-06+(sw_wn*1.0))/1e-06)))+((1/(sw_wn*1.0))*((1.37e-06/10.0+1e-06/100.0)*exp(-10.0*1.37e-06/1e-06)-((1.37e-06+(sw_wn*1.0))/10.0+1e-06/100.0)*exp(-10.0*(1.37e-06+(sw_wn*1.0))/1e-06))))/1) \
        scc=((0+((1/6e-08)*(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/20.0+1e-06/400.0)*exp(-20.0*(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/20.0+1e-06/400.0)*exp(-20.0*((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/6e-08)*(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/20.0+1e-06/400.0)*exp(-20.0*(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/20.0+1e-06/400.0)*exp(-20.0*((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/(sw_wn*1.0))*((1.37e-06/20.0+1e-06/400.0)*exp(-20.0*1.37e-06/1e-06)-((1.37e-06+(sw_wn*1.0))/20.0+1e-06/400.0)*exp(-20.0*(1.37e-06+(sw_wn*1.0))/1e-06)))+((1/(sw_wn*1.0))*((1.37e-06/20.0+1e-06/400.0)*exp(-20.0*1.37e-06/1e-06)-((1.37e-06+(sw_wn*1.0))/20.0+1e-06/400.0)*exp(-20.0*(1.37e-06+(sw_wn*1.0))/1e-06))))/1) \
        m=sw_mul sigma=1
    M3 (IN\- LO_0 net13 0) nmos_rf lr=60n wr=sw_wn nr=1 sa=450.0n \
        sb=450.0n sd=240.0n \
        sca=((0+(((1e-06*1e-06)/6e-08)*(1/(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))-1/((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)))+(((1e-06*1e-06)/6e-08)*(1/(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))-1/((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)))+(((1e-06*1e-06)/(sw_wn*1.0))*(1/1.37e-06-1/(1.37e-06+(sw_wn*1.0))))+(((1e-06*1e-06)/(sw_wn*1.0))*(1/1.37e-06-1/(1.37e-06+(sw_wn*1.0)))))/1) \
        scb=((0+((1/6e-08)*(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/10.0+1e-06/100.0)*exp(-10.0*(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/10.0+1e-06/100.0)*exp(-10.0*((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/6e-08)*(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/10.0+1e-06/100.0)*exp(-10.0*(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/10.0+1e-06/100.0)*exp(-10.0*((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/(sw_wn*1.0))*((1.37e-06/10.0+1e-06/100.0)*exp(-10.0*1.37e-06/1e-06)-((1.37e-06+(sw_wn*1.0))/10.0+1e-06/100.0)*exp(-10.0*(1.37e-06+(sw_wn*1.0))/1e-06)))+((1/(sw_wn*1.0))*((1.37e-06/10.0+1e-06/100.0)*exp(-10.0*1.37e-06/1e-06)-((1.37e-06+(sw_wn*1.0))/10.0+1e-06/100.0)*exp(-10.0*(1.37e-06+(sw_wn*1.0))/1e-06))))/1) \
        scc=((0+((1/6e-08)*(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/20.0+1e-06/400.0)*exp(-20.0*(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/20.0+1e-06/400.0)*exp(-20.0*((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/6e-08)*(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/20.0+1e-06/400.0)*exp(-20.0*(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/20.0+1e-06/400.0)*exp(-20.0*((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/(sw_wn*1.0))*((1.37e-06/20.0+1e-06/400.0)*exp(-20.0*1.37e-06/1e-06)-((1.37e-06+(sw_wn*1.0))/20.0+1e-06/400.0)*exp(-20.0*(1.37e-06+(sw_wn*1.0))/1e-06)))+((1/(sw_wn*1.0))*((1.37e-06/20.0+1e-06/400.0)*exp(-20.0*1.37e-06/1e-06)-((1.37e-06+(sw_wn*1.0))/20.0+1e-06/400.0)*exp(-20.0*(1.37e-06+(sw_wn*1.0))/1e-06))))/1) \
        m=sw_mul sigma=1
    M2 (IN\+ LO_180 net13 0) nmos_rf lr=60n wr=sw_wn nr=1 sa=450.0n \
        sb=450.0n sd=240.0n \
        sca=((0+(((1e-06*1e-06)/6e-08)*(1/(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))-1/((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)))+(((1e-06*1e-06)/6e-08)*(1/(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))-1/((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)))+(((1e-06*1e-06)/(sw_wn*1.0))*(1/1.37e-06-1/(1.37e-06+(sw_wn*1.0))))+(((1e-06*1e-06)/(sw_wn*1.0))*(1/1.37e-06-1/(1.37e-06+(sw_wn*1.0)))))/1) \
        scb=((0+((1/6e-08)*(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/10.0+1e-06/100.0)*exp(-10.0*(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/10.0+1e-06/100.0)*exp(-10.0*((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/6e-08)*(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/10.0+1e-06/100.0)*exp(-10.0*(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/10.0+1e-06/100.0)*exp(-10.0*((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/(sw_wn*1.0))*((1.37e-06/10.0+1e-06/100.0)*exp(-10.0*1.37e-06/1e-06)-((1.37e-06+(sw_wn*1.0))/10.0+1e-06/100.0)*exp(-10.0*(1.37e-06+(sw_wn*1.0))/1e-06)))+((1/(sw_wn*1.0))*((1.37e-06/10.0+1e-06/100.0)*exp(-10.0*1.37e-06/1e-06)-((1.37e-06+(sw_wn*1.0))/10.0+1e-06/100.0)*exp(-10.0*(1.37e-06+(sw_wn*1.0))/1e-06))))/1) \
        scc=((0+((1/6e-08)*(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/20.0+1e-06/400.0)*exp(-20.0*(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/20.0+1e-06/400.0)*exp(-20.0*((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/6e-08)*(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/20.0+1e-06/400.0)*exp(-20.0*(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/20.0+1e-06/400.0)*exp(-20.0*((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/(sw_wn*1.0))*((1.37e-06/20.0+1e-06/400.0)*exp(-20.0*1.37e-06/1e-06)-((1.37e-06+(sw_wn*1.0))/20.0+1e-06/400.0)*exp(-20.0*(1.37e-06+(sw_wn*1.0))/1e-06)))+((1/(sw_wn*1.0))*((1.37e-06/20.0+1e-06/400.0)*exp(-20.0*1.37e-06/1e-06)-((1.37e-06+(sw_wn*1.0))/20.0+1e-06/400.0)*exp(-20.0*(1.37e-06+(sw_wn*1.0))/1e-06))))/1) \
        m=sw_mul sigma=1
    M1 (IN\- LO_180 net14 0) nmos_rf lr=60n wr=sw_wn nr=1 sa=450.0n \
        sb=450.0n sd=240.0n \
        sca=((0+(((1e-06*1e-06)/6e-08)*(1/(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))-1/((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)))+(((1e-06*1e-06)/6e-08)*(1/(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))-1/((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)))+(((1e-06*1e-06)/(sw_wn*1.0))*(1/1.37e-06-1/(1.37e-06+(sw_wn*1.0))))+(((1e-06*1e-06)/(sw_wn*1.0))*(1/1.37e-06-1/(1.37e-06+(sw_wn*1.0)))))/1) \
        scb=((0+((1/6e-08)*(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/10.0+1e-06/100.0)*exp(-10.0*(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/10.0+1e-06/100.0)*exp(-10.0*((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/6e-08)*(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/10.0+1e-06/100.0)*exp(-10.0*(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/10.0+1e-06/100.0)*exp(-10.0*((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/(sw_wn*1.0))*((1.37e-06/10.0+1e-06/100.0)*exp(-10.0*1.37e-06/1e-06)-((1.37e-06+(sw_wn*1.0))/10.0+1e-06/100.0)*exp(-10.0*(1.37e-06+(sw_wn*1.0))/1e-06)))+((1/(sw_wn*1.0))*((1.37e-06/10.0+1e-06/100.0)*exp(-10.0*1.37e-06/1e-06)-((1.37e-06+(sw_wn*1.0))/10.0+1e-06/100.0)*exp(-10.0*(1.37e-06+(sw_wn*1.0))/1e-06))))/1) \
        scc=((0+((1/6e-08)*(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/20.0+1e-06/400.0)*exp(-20.0*(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/20.0+1e-06/400.0)*exp(-20.0*((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/6e-08)*(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/20.0+1e-06/400.0)*exp(-20.0*(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/20.0+1e-06/400.0)*exp(-20.0*((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/(sw_wn*1.0))*((1.37e-06/20.0+1e-06/400.0)*exp(-20.0*1.37e-06/1e-06)-((1.37e-06+(sw_wn*1.0))/20.0+1e-06/400.0)*exp(-20.0*(1.37e-06+(sw_wn*1.0))/1e-06)))+((1/(sw_wn*1.0))*((1.37e-06/20.0+1e-06/400.0)*exp(-20.0*1.37e-06/1e-06)-((1.37e-06+(sw_wn*1.0))/20.0+1e-06/400.0)*exp(-20.0*(1.37e-06+(sw_wn*1.0))/1e-06))))/1) \
        m=sw_mul sigma=1
    M0 (IN\+ LO_0 net14 0) nmos_rf lr=60n wr=sw_wn nr=1 sa=450.0n \
        sb=450.0n sd=240.0n \
        sca=((0+(((1e-06*1e-06)/6e-08)*(1/(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))-1/((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)))+(((1e-06*1e-06)/6e-08)*(1/(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))-1/((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)))+(((1e-06*1e-06)/(sw_wn*1.0))*(1/1.37e-06-1/(1.37e-06+(sw_wn*1.0))))+(((1e-06*1e-06)/(sw_wn*1.0))*(1/1.37e-06-1/(1.37e-06+(sw_wn*1.0)))))/1) \
        scb=((0+((1/6e-08)*(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/10.0+1e-06/100.0)*exp(-10.0*(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/10.0+1e-06/100.0)*exp(-10.0*((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/6e-08)*(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/10.0+1e-06/100.0)*exp(-10.0*(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/10.0+1e-06/100.0)*exp(-10.0*((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/(sw_wn*1.0))*((1.37e-06/10.0+1e-06/100.0)*exp(-10.0*1.37e-06/1e-06)-((1.37e-06+(sw_wn*1.0))/10.0+1e-06/100.0)*exp(-10.0*(1.37e-06+(sw_wn*1.0))/1e-06)))+((1/(sw_wn*1.0))*((1.37e-06/10.0+1e-06/100.0)*exp(-10.0*1.37e-06/1e-06)-((1.37e-06+(sw_wn*1.0))/10.0+1e-06/100.0)*exp(-10.0*(1.37e-06+(sw_wn*1.0))/1e-06))))/1) \
        scc=((0+((1/6e-08)*(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/20.0+1e-06/400.0)*exp(-20.0*(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/20.0+1e-06/400.0)*exp(-20.0*((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/6e-08)*(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/20.0+1e-06/400.0)*exp(-20.0*(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/20.0+1e-06/400.0)*exp(-20.0*((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/(sw_wn*1.0))*((1.37e-06/20.0+1e-06/400.0)*exp(-20.0*1.37e-06/1e-06)-((1.37e-06+(sw_wn*1.0))/20.0+1e-06/400.0)*exp(-20.0*(1.37e-06+(sw_wn*1.0))/1e-06)))+((1/(sw_wn*1.0))*((1.37e-06/20.0+1e-06/400.0)*exp(-20.0*1.37e-06/1e-06)-((1.37e-06+(sw_wn*1.0))/20.0+1e-06/400.0)*exp(-20.0*(1.37e-06+(sw_wn*1.0))/1e-06))))/1) \
        m=sw_mul sigma=1
    I3 (net17 Q\-) transimpedance_amplifier_tsmc _par0=G _par1=res_w \
        _par2=cap_w
    I2 (net18 Q\+) transimpedance_amplifier_tsmc _par0=G _par1=res_w \
        _par2=cap_w
    I1 (net13 I\-) transimpedance_amplifier_tsmc _par0=G _par1=res_w \
        _par2=cap_w
    I0 (net14 I\+) transimpedance_amplifier_tsmc _par0=G _par1=res_w \
        _par2=cap_w
ends current_mode_DB_fd_25D
// End of subcircuit definition.

// Library name: Narasimhan
// Cell name: Mixer_DB_CM_25D_TB_tsmc
// View name: schematic
I0 (VO_IP VO_IN net016 net015 LO_0 LO_180 LO_270 LO_90 VO_QP VO_QN) \
        current_mode_DB_fd_25D
PORT6 (net026 net025) port r=50 type=dc
PORT5 (net028 net027) port r=50 type=dc
PORT0 (net06 0) port r=50 type=dc pacmag=1
R6 (0 net010) resistor r=RN
R7 (net09 0) resistor r=RN
R5 (net05 0) resistor r=50
R4 (0 net051) resistor r=50
R3 (net16 0) resistor r=50
R2 (net10 0) resistor r=50
R1 (net17 0) resistor r=50
R0 (net11 0) resistor r=50
PORT4 (net16 0) port r=50 type=pulse delay=0.75*(1/flo) val0=0 val1=1.2 \
        period=1/flo rise=0.001*(1/flo) fall=0.001*(1/flo) \
        width=0.25*(1/flo) fundname="LO_270"
PORT2 (net17 0) port r=50 type=pulse delay=0.25*(1/flo) val0=0 val1=1.2 \
        period=1/flo rise=0.001*(1/flo) fall=0.001*(1/flo) \
        width=0.25*(1/flo) fundname="LO_90"
PORT3 (net10 0) port r=50 type=pulse delay=0.5*(1/flo) val0=0 val1=1.2 \
        period=1/flo rise=0.001*(1/flo) fall=0.001*(1/flo) \
        width=0.25*(1/flo) fundname="LO_180"
PORT1 (net11 0) port r=50 type=pulse delay=0 val0=0 val1=1.2 period=1/flo \
        rise=0.001*(1/flo) fall=0.001*(1/flo) width=0.25*(1/flo) \
        fundname="LO_0"
E7 (net025 0 VO_QN 0) vcvs gain=1.0
E4 (net028 0 VO_IP 0) vcvs gain=1.0
E5 (net027 0 VO_IN 0) vcvs gain=1.0
E6 (net026 0 VO_QP 0) vcvs gain=1.0
E0 (LO_0 0 net11 0) vcvs gain=1.0
E1 (LO_180 0 net10 0) vcvs gain=1.0
E3 (LO_270 0 net16 0) vcvs gain=1.0
E2 (LO_90 0 net17 0) vcvs gain=1.0
G1 (net09 0 net05 0) vccs gm=gm
G0 (net010 0 net051 0) vccs gm=gm
V2 (Vdd 0) vsource dc=Vdd type=dc
V1 (net09 net015) vsource dc=0 type=dc
V0 (net010 net016) vsource dc=0 type=dc
I1 (net06 net051 net05) balun rin=50 rout=50 loss=0
B3 (LO_270 LO_270 Vdd) buffer_block
B2 (LO_180 LO_180 Vdd) buffer_block
B1 (LO_90 LO_90 Vdd) buffer_block
B0 (LO_0 LO_0 Vdd) buffer_block
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=temperature tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
// ANALYSIS STATEMENTS
sweeppss  sweep  param=flo  start=flo_start  stop=flo_stop  lin=2  {
  pss_test  pss  fund=flo  harms=50  errpreset=conservative  restart=yes
+    annotate=status
// PAC STATEMENTS
  pac_test  pac  sweeptype=absolute  start=flo+Bandwidth  maxsideband=10
+      annotate=status
  pnoise_test  (  VO_IP  VO_IN  )  pnoise  sweeptype=absolute
+         start=1K  stop=Bandwidth  lin=100  maxsideband=10  iprobe=PORT0
+         refsideband=-1  noiseout=[usb]  annotate=status
}

modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save V0:p 
save V1:p
save V2:p
saveOptions options save=allpub
ahdl_include "/cad/tools/cadencetools/IC618/tools/dfII/samples/artist/rfLib/balun/veriloga/veriloga.va"